US04568666
(e) N-(Benzyloxycarbonyl)-L-leucyl-O-methyl-L-tyrosine tButyl ester
To a cold (0°) solution of N-tertiarybutoxycarbonyl-L-leucine (4 g, 15.1 mM), O-methyl-L-tyrosine t-butyl ester (3.8 g, 15.1 mM) and 1-hydroxybenzotriazole (2.43 g, 15.9 mM) in DMF (30 ml) was added N-methylmorpholine (1.61 g, 15.9 mM) and N-ethyl-N'-(3-dimethylaminopropyl)carbodiimide hydrochloride (3.04 g, 15.9 mM). After stirring at 0° for 1 h the solution was allowed to warm to room temperature overnight. The reaction mixture was then concentrated in vacuo, dissolved in ethyl acetate, washed (water, 0.5 mole citric acid, brine, saturated aqueous sodium bicarbonate solution and brine), dried and evaporated in vacuo to give an oil. Chromatography on silica eluting with 25% ethyl acetate in hexane then gave the title compound as a foam (4.65 g); (Found: [m+1]+ =499.2803. C28H39N2O6 requires 499.2808); δ(CDCl3) 0.92 (6H, m, CH(CH3)3); 1.42 (9H, s, OC(CH3)3); 1.4-1.83 (3H, m, CH2CH(CH3)2); 3.03 (2H, m, CH2Tyr); 3.76 (3H, s, OCH3); 4.18 (1H, m,α-CH); 4.69 (1H, dd, J=7 and 15 Hz,α-CH); 5.12 (2H, s, CH2C6H5); 5.17 (1H, m, CONH); 6.43 (1H, m, CONH); 6.79 (2H, d, J=8 Hz, Tyr); 7.06 (2H, d, J=8 Hz, Tyr); 7.36 (5H, s, C6H5).

reactant | N-tertiarybutoxycarbonyl-L-leucine | 15.1 mM, 4 g | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | O-methyl-L-tyrosine t-butyl ester | 15.1 mM, 3.8 g | C(C)(C)(C)OC([C@@H](N)CC1=CC=C(C=C1)OC)=O | C14H21NO3
reactant | 1-hydroxybenzotriazole | 15.9 mM, 2.43 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 15.9 mM, 1.61 g | CN1CCOCC1 | C5H11NO
reactant | N-ethyl-N'-(3-dimethylaminopropyl)carbodiimide hydrochloride | 15.9 mM, 3.04 g | Cl.C(C)N=C=NCCCN(C)C
reactant | citric acid | 0.5 mole | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-(Benzyloxycarbonyl)-L-leucyl-O-methyl-L-tyrosine | 4.65 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC)C(=O)O | C24H30N2O6
